data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1163,"ClC1=C(Cl)[C:1](=[O:2])[C:3](C(Cl)Cl)([H:4])C=C1.[OH-:5].[OH2+][Na]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9548,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](C(C#N)C1=CC=CC=C1)[H:2].O=C(CC1=CC=C([N+](=O)[O-])C=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8383,"O=S(=O)(O)[C:1]1([H:2])OC(Br)=C[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3139,"CCC=CC(C(=O)OC)[N:1]=[C:2](OCC1=CC=CC=C1)[O-:3].[H:4][OH:5].[Mg+][Br]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3753,"C[S-:1].C[S:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4696,"C[OH:1].O=S(=O)([O-])O.O[C:2](C1=C(Br)SC=C1)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5383,"BrC(Br)Br.ClC1=C(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=CC(Br)=C1|((1, 2), 2)"
train,pmechdb_split_0,0,7571,"C#CCOC(=O)C(C)(CO)C[O+:1]=[C:2](C)C.CO.O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4546,"CC1([O-:1])CCC(=O)C1.CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5510,"C[CH:1]=[NH:2].[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2531,"CC[O-:1].C[C:2]([CH:3](CO)[H:4])=[O:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,7771,"COC(=O)C1(CC=C(C)O)CCC[C:1](Br)([H:2])[C:3]1=[OH+:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,196,"CC1=CC=C(S(=O)(=O)[O:1][N:2]=C(C2=CN=CC=C2)[CH2-:3])C=C1.CO.C[OH+][K]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5052,"CC(C)=C[C:1](C)=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[CH2:4]C(C)C|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10411,"O[CH:1]=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,413,"CCC(C(C)C=O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6309,"C[C:1](=[N:2]CCC1=CC=CC=C1)[O:3]P(=O)(Cl)Cl|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4720,"CC12CCC3C(CCC4CC(O)CCC43C)C1CCC2=[O:1].CS(=O)(=O)[O:2][H:3].OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4029,"CCNC[CH:1]=[C:2](N(CC)CC)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4470,"O=C(CCCCC1=CC=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,10336,"CCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8540,"CC[OH:1].C[C:2](OC(=O)CCC=O)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4286,"C[S:1][OH2+:2].[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6459,"C[S:1][S:2]C.[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9466,"CCCOC(=O)C[N-:1][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#N.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,246,"C[C:1](C)=[N+:2](C)C.C[O:3][B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5231,"CO.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[NH:1]1.COC1=C2OC3C(=[O+:2][H:3])CCC4C5CC(=C2C34CCN5)C=C1.CS(=O)(=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,487,"CC[O+:1](C(O)(CCC=O)OC(C)=O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8595,"CC(Br)C1(C)CCCC[O+:1]1[H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,346,"C[P:1](C)(Cl)([Mg][Br])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6538,"CC1C(O)[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,101,"CC(=O)C(C1=CC=CC=C1)C(C)(CC1=CC=CC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10279,"C[O-:1].C[S+](C)[CH2:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,766,"CCC(O)C(O)(OCC[NH3+])[OH+:1][H:2].[Cl-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3359,"C[C:1](C)=[O+:2][B-](F)(F)F.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10169,"S[CH:1]=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7624,"C[CH:1]([N:2](C)C)[F:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6410,"CN[C:1](OCCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6388,"N#CCC=[N:1]C(=N)N.N#[C:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,272,"CCCCCC[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COCOC1=C(C(=O)[O-])C(C(=O)OC)=C(C2=CC(OC)=C(OC)C=C2)C2=C1C=C(OC)C(OC)=C2OC|(1, 2)"
train,pmechdb_split_0,0,4695,"CC(=O)C1=CO[CH:1]=[CH:2]1.C[C+:3]=O|((2, 1), 3)"
train,pmechdb_split_0,0,9685,"BrC(Br)(Br)[CH:1]=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4913,"CC(=O)C1=C[CH:1]=[CH:2]O1.C[CH+:3]C|((2, 1), 3)"
train,pmechdb_split_0,0,5075,"CO[C:1]1([NH2:2])OCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5280,"OP(O)(O)(I)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2443,"C[C:1]1=[CH:2]CCC1(C1=CC=CC=C1)C1=CC=CC=C1.[H:3][Cl:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6314,"C1=CC=C(CC=[O+:1][H:2])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3196,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C)OC(=O)NCCCCCC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,8922,"O=C1NC2=C(NCC3=CC(Br)=C(O)C(Br)=C3)[NH+:1]([H:2])C([O-])N=C2N1C1OC(CO)C(O)C1O.[Br-].[OH-:3]|(3, 2);((2, 1), 1)"
